US04877793
Potassium carbonate (0.56 g) was added to a stirred solution of ethyl 2-chloro-7-hydroxythieno[3,2-b]pyridine-6-carboxylate (1.1 g) in dry dimethylformamide (100 ml) at ambient temperature. After 5 minutes iodomethane (0.3 ml) was added to the mixture and stirring was continued for 18 hours. The mixture was stirred at 60° for 2 hours and then evaporated to dryness to give a residue which was dissolved in water (80 ml). The aqueous solution was extracted with dichloromethane (3×150 ml) and the combined extracts dried over anhydrous sodium sulphate and evaporated to give the novel compound ethyl 2-chloro-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate, m.p. 168°-171°.

reactant | Potassium carbonate | 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-chloro-7-hydroxythieno[3,2-b]pyridine-6-carboxylate | 1.1 g | ClC1=CC2=NC=C(C(=C2S1)O)C(=O)OCC | C10H8ClNO3S
reactant | iodomethane | 0.3 ml | IC | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 80 ml | O | H2O
product | ethyl 2-chloro-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | ClC1=CC=2N(C=C(C(C2S1)=O)C(=O)OCC)C | C11H10ClNO3S
